US07994163B2
2-Hydroxy-5-(3-methyl-butyryl)-pyridine:
Dissolve 6-hydroxy-N-methoxy-N-methyl-nicotinamide (1.89 g, 10.4 mmol) in anhydrous THF (40 mL), then cool the solution to 0° C. Add isobutyl magnesium chloride (16 mL, 32 mmol, 2M solution in diethyl ether) under nitrogen, allow the mixture to warm gradually to room temperature and then stir for 16 h. Quench the reaction with 1M aqueous HCl and concentrate the mixture in vacuo. Extract the aqueous mixture with EtOAc (4×50 mL). Dry the combined organic extracts over MgSO4, filter and concentrate in vacuo to obtain a yellow solid. Purify by chromatography on silica gel eluting with DCM/2M ammonia in methanol (23:2) to obtain the desired intermediate as a white solid (1.28 g, 69%). MS (ES+) m/z: 180.2 (M+H)+.

reactant | 6-hydroxy-N-methoxy-N-methyl-nicotinamide | 10.4 mmol, 1.89 g | OC1=NC=C(C(=O)N(C)OC)C=C1 | C8H10N2O3
reactant | isobutyl magnesium chloride | 32 mmol, 2M, 16 mL | C(C(C)C)[Mg]Cl
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 2-Hydroxy-5-(3-methyl-butyryl)-pyridine | 1.28 g, 69% | OC1=NC=C(C=C1)C(CC(C)C)=O | C10H13NO2
